### PR TITLE
[Merged by Bors] - feat: API for dealing with divisors attached to meromorphic functions

### PR DESCRIPTION
**Pull request by kebekus**
Provide supporting API useful in the discussion of (zero/pole) divisors attached to meromorphic functions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kebekus** [comment]
@YaelDillies As agreed, I split PR #30774. Here is the second part.

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 1]
```diff
@@ -322,13 +324,49 @@ instance [Lattice Y] [Zero Y] : Lattice (locallyFinsuppWithin U Y) where
...
     IsOrderedAddMonoid (locallyFinsuppWithin U Y) where
   add_le_add_left := fun _ _ _ _ ↦ by simpa [le_def]
 
+/--
+Taking the positive part of a function with locally finite support commutes with
+scalar multiplication by a natural number.
+-/
+theorem nsmul_posPart [AddCommGroup Y] [LinearOrder Y] [IsOrderedAddMonoid Y]
+    (f : locallyFinsuppWithin U Y) (n : ℕ) :
+    n • f⁺ = (n • f)⁺ := by
```
Comment (YaelDillies) [inline Mathlib/Topology/LocallyFinsupp.lean]: I would expect this lemma to be simp the other way around. Do you agree? Same below

Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean]: Done.

**Comment by kebekus** [comment]
@YaelDillies Again, the CI gives a weird error message. Maybe I should ignore them this time.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by kebekus** [comment]
@YaelDillies Thank you.

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 2]
```diff
@@ -322,13 +327,49 @@ instance [Lattice Y] [Zero Y] : Lattice (locallyFinsuppWithin U Y) where
...
-    IsOrderedAddMonoid (locallyFinsuppWithin U Y) where
+instance : IsOrderedAddMonoid (locallyFinsuppWithin U Y) where
   add_le_add_left := fun _ _ _ _ ↦ by simpa [le_def]
 
+/--
+Taking the positive part of a function with locally finite support commutes with
+scalar multiplication by a natural number.
+-/
+@[simp]
+theorem nsmul_posPart (f : locallyFinsuppWithin U Y) (n : ℕ) : (n • f)⁺ = n • f⁺ := by
```
Comment (YaelDillies) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
theorem nsmul_posPart (n : ℕ) (f : locallyFinsuppWithin U Y) : (n • f)⁺ = n • f⁺ := by
```
to respect the order in which things appear in the lemma. Don't forget the same thing below!

Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean]: Done. Thanks for the reminder.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by kebekus** [comment]
@YaelDillies @jcommelin Thanks!
